US07037916B2
4-Cyclohexyloxy-3-oxo-butyric acid methyl ester (8.0 g) was added to a mixture of thiourea (34.7 g), sodium ethoxide (180 mL of 3 M ethanol solution) and ethanol (70 mL). The reaction was heated at reflux under nitrogen for 16 h. The ethanol was removed under vacuum. Residue was dissolved in water (400 mL) and the solution was cooled in an ice-bath. The solution was acidified with conc. hydrochloric acid to pH˜1 and stood at rt for 16 h. The solid that formed was collected by filtration to afford 6-cyclohexyloxymethyl-2-thioxo-2,3-dihydro-1H-pyrimidin-4-one (7.6 g).

reactant | 4-Cyclohexyloxy-3-oxo-butyric acid methyl ester | 8.0 g | COC(CC(COC1CCCCC1)=O)=O | C11H18O4
reactant | thiourea | 34.7 g | NC(=S)N | CH4N2S
reactant | sodium ethoxide | 3 M, 180 mL | [O-]CC.[Na+]
solvent | ethanol | 70 mL | C(C)O | C2H6O
product | 6-cyclohexyloxymethyl-2-thioxo-2,3-dihydro-1H-pyrimidin-4-one | 7.6 g | C1(CCCCC1)OCC1=CC(NC(N1)=S)=O | C11H16N2O2S
